US09034900B2
Step 2: tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-methylcarbamate
To a solution of tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)carbamate (150.0 mg, impure) in DMF (10 mL) was added NaH (60.0 mg, 1.5 mol, 60% in oil) in portions at 0° C. It was stirred for 30 min. Then CH3I (231.0 mg, 1.5 mmol) was added dropwise at 0° C. The reaction mixture was stirred for 2 h at 30° C. The reaction was quenched with saturated aqueous NH4Cl (15 mL), extracted with EA (20 mL), washed with brine (20 mL), dried over Na2SO4, filtered and concentrated to give the title compound (120.0 mg, crude) as a green solid, which was used directly in the next step without purification.

reactant | tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)carbamate | 150.0 mg | BrC=1C=C(C(N(C1)C)=O)NC(OC(C)(C)C)=O | C11H15BrN2O3
reactant | NaH | 1.5 mol, 60.0 mg | [H-].[Na+]
reactant | CH3I | 1.5 mmol, 231.0 mg | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl N-(5-bromo-1-methyl-2-oxopyridin-3-yl)-N-methylcarbamate | 120.0 mg | BrC=1C=C(C(N(C1)C)=O)N(C(OC(C)(C)C)=O)C | C12H17BrN2O3
